Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
diagnostic laparoscopy
right laparoscopic salpingectomy

 
History of Present Illness:
Ms. ___ is a ___ G1P0 with LMP ___ who presented to the 
ED with abdominal pain. Patient reported spotting around 10pm.  
She then reported sudden onset of severe abdominal pain, ___ 
around midnight.  She presented to the ED around 4am.  She 
reports that her pain improved spontaneously after arrival to 
___. After receiving 4mg IV Morphine at 5:45am, the pain was 
___.  She had a pelvic U/S without pain medication and felt 
that it was only uncomfortable. She reported two episodes of 
nausea and vomiting overnight, however is not currently 
nauseated.  She denied dizziness or lightheadedness.  Denies 
CP/SOB.  Denied fever/chills.  Denied GI or urinary symptoms. 
This was a desired pregnancy.

Of note, patient reported that her period on ___ was 4 days 
late, however appeared to be a normal period lasting 7 days with 
normal flow. Home UCG negative ___. 

 
Past Medical History:
GynHx:
LMP ___
Regular menses, q30days, lasting 7days, moderate to heavy flow
Denies h/o abnl Paps
Denies h/o STIs
No contraception, trying to conceive for one year
Currently sexually active, monogamous male partner

___: G0

PMH: GERD

PSH: Umbilical hernia repair at age ___

 
Social History:
Married. Accompanied by husband. No ___. Occasional EtOH.

 
Physical Exam:
VS: T 98.7  BP 140/95  HR 90  RR 16  O2Sat 99%RA
General: NAD, comfortable
Cardiac: RRR
Pulm: CTAB
Abd: soft, obese, ND, mild suprapubic tenderness to very deep
palpation, no rebound/guarding
Pelvic: scant blood, no CMT, no uterine or adnexal tenderness, 
no palpable adnexal masses
Ext: NTNE

 
Pertinent Results:
___ 04:40AM BLOOD WBC-14.1* RBC-3.98* Hgb-11.3* Hct-33.9* 
MCV-85 MCH-28.4 MCHC-33.4 RDW-14.2 Plt ___
___ 06:55AM BLOOD WBC-11.0 RBC-3.88* Hgb-10.9* Hct-32.1* 
MCV-83 MCH-28.0 MCHC-33.8 RDW-13.7 Plt ___
___ 04:40AM BLOOD HCG-1022
___ 04:40AM BLOOD Glucose-141* UreaN-17 Creat-0.7 Na-140 
K-4.4 Cl-105 HCO3-23 AnGap-16
___ 06:48AM BLOOD PROGESTERONE-Test      
 
Brief Hospital Course:
A pelvic ultrasound in the ED revealed the following: 
.
The uterus measures 9.4 x 4.9 x 3.8 cm. The endometrium measures 
8 mm. There is no evidence of gestational sac or fluid within 
the endometrial cavity.
.
The right ovary measures about 2.1 cm in maximal dimension. 
There is an about 2.1 x 1.5 x 1.4 cm ring-like structure at the 
right adnexa, between the right ovary and the uterus, suggestive 
of an ectopic pregnancy. Fetal heart beat is not detected. There 
is moderate amount of complex free fluid surrounding the right 
adnexa and within the vesicouterine and rectouterine spaces, 
likely consistent with hemorrhage. The left ovary is not 
definitely visualized.
.
Ms. ___ was admitted to the Gynecology service for serial 
abdominal exams and serial CBCs with a low threshold for 
diagnostic laparoscopy. The following day, after reviewing the 
ultrasound again with radiology, it was decided to take the 
patient to the OR for the following procedures: examination 
under anesthesia; operative laparoscopy; laparoscopic right 
salpingectomy. A right ectopic pregnancy was confirmed. These 
procedures were uncomplicated; please see operative report for 
details. She was discharged later that evening in good 
condition, ambulating, toleration po, urinating without 
difficulty, and with her pain controlled using po medications.

 
Medications on Admission:
prilosec
 
Discharge Medications:
1. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
2. oxycodone-acetaminophen 2.5-325 mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain: do not exceed more than 
10 pills in any 24 hour period.
Disp:*30 Tablet(s)* Refills:*0*
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day): take as long as taking percocet.
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right ectopic pregnancy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
- Please call your doctor if you experience fever > 100.4, 
chills, nausea and vomiting, worsening or severe abdominal pain, 

heavy vaginal bleeding, chest pain, trouble breathing, or if you 

have any other questions or concerns.  
- Please call if you have redness and warmth around the 
incisions, if your incisions are draining pus-like or foul 
smelling discharge, or if your incisions reopen. 
- No driving while taking narcotic pain medication (percocet) as 
it can make you drowsy. 
- No heavy lifting or strenuous exercise for 6 weeks to allow 
your incisions to heal adequately.  
- Nothing per vagina (no tampons, intercourse, douching for 2 
weeks. 
- Please keep your follow-up appointments as outlined below. 

 
Followup Instructions:
___